US04952600
(S)-4-(Acetyloxy)-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone
A mixture of 1.5 g of (S)-4-(acetyloxy)-1-(2-propynyl)-2-pyrrolidinone, 20 ml of dry dioxane, 1.64 ml of piperidine, 0.66 g of paraformaldehyde, 3.0 ml of acetic acid and 42 mg of cupric chloride was stirred for 30 minutes and then heated at reflux for 45 minutes. The mixture was basified to pH 10 with ammonium hydroxide and then extracted with 5×50 ml of dichloromethane. The extracts were combined, dried, filtered and concentrated with toluene in vacuo. The residual oil was chromatographed on deactivated alumina, giving 2.3 g of the desired product as a pale yellow oil [α]D26° =-17° (dichloromethane).

reactant | (S)-4-(acetyloxy)-1-(2-propynyl)-2-pyrrolidinone | 1.5 g | C(C)(=O)O[C@H]1CC(N(C1)CC#C)=O | C9H11NO3
reactant | piperidine | 1.64 ml | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 0.66 g | C=O | CH2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (S)-4-(Acetyloxy)-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone | 2.3 g | C(C)(=O)O[C@H]1CC(N(C1)CC#CCN1CCCCC1)=O | C15H22N2O3
